US09145413B2
a. 2-Methyl-2-pyrrolidin-1-yl-propionic acid N′-(5-fluoro-pyridin-2-yl)-hydrazide (Intermediate 80a)
To a solution of (5-fluoro-pyridin-2-yl)-hydrazine (200 mg, 1.57 mmol) in DMF (10.0 mL) was added 2-methyl-2-pyrrolidin-1-yl-propionic acid (246 mg, 1.57 mmol), EDC (332 mg, 1.73 mmol) and HOBt.H2O (21.0 mg, 0.16 mmol). The reaction was stirred overnight then partitioned between EtOAc and water. The aqueous layer was then extracted with EtOAc (3×). The combined organic layers were washed with brine, dried (MgSO4), filtered and evaporated in vacuo. The residue was purified by FCC, using 0-10% [2M NH3 in MeOH] in DCM, to give the title compound (260 mg, 62%). 1H NMR (300 MHz, CDCl3): 1.30 (6H, s), 1.76-1.84 (4H, m), 2.64-2.72 (4H, m), 6.46 (1H, br s), 6.62 (1H, dd, J 9.0, 3.6), 7.28 (1H, ddd, J 9.0, 8.0, 2.9), 8.03 (1H, d, J 2.9), 9.06 (1H, br s).

reactant | (5-fluoro-pyridin-2-yl)-hydrazine | 1.57 mmol, 200 mg | FC=1C=CC(=NC1)NN | C5H6FN3
reactant | 2-methyl-2-pyrrolidin-1-yl-propionic acid | 1.57 mmol, 246 mg | CC(C(=O)O)(C)N1CCCC1 | C8H15NO2
reactant | EDC | 1.73 mmol, 332 mg
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 0.16 mmol, 21.0 mg | O | H2O
solvent | DMF | 10.0 mL | CN(C)C=O | C3H7NO
product | 2-Methyl-2-pyrrolidin-1-yl-propionic acid N′-(5-fluoro-pyridin-2-yl)-hydrazide | 260 mg, 62% | FC=1C=CC(=NC1)NNC(C(C)(N1CCCC1)C)=O | C13H19FN4O
